US06348032B1
N-(1-butanesulfonyl)-4-acetylamino-3-nitrobenzamide (10.75 g) is dissolved with methanol (200 ml) and water (30 ml), and potassium bicarbonate (7.59 g) is added. The solution is hydrogenated with a 5% palladium/carbon (2.53 g) catalyst under a hydrogen environment for 24 hours at 40° C. The solids are separated through filtration, the residue, which is obtained by concentrating the filtrate, is purified using silica gel column chromatography (eluate: ethyl acetate/methanol=4/1), and 6.72 g of N-1-butylsulfonyl-4-acetylamino-3-aminobenzamide is obtained. 1H-NMR (DMSO-d6, δ): 0.86 (3H, t, J=7.3 Hz), 1.33-1.43 (2H, m), 1.59-1.67 (2H, m), 2.07 (3H, s), 3.37-3.43 (2H, t), 5.12 (2H, br s), 7.13 (1H, dd, J=8.2 and 2.0 Hz), 7.28 (1H, d, J=1.9 Hz), 7.40 (1H, d, J=8.3 Hz), 9.09 (1H, s).

reactant | N-(1-butanesulfonyl)-4-acetylamino-3-nitrobenzamide | 10.75 g | C(CCC)S(=O)(=O)NC(C1=CC(=C(C=C1)NC(C)=O)[N+](=O)[O-])=O | C13H17N3O6S
reactant | methanol | 200 ml | CO | CH4O
reactant | potassium bicarbonate | 7.59 g | C([O-])(O)=O.[K+]
catalyst | palladium/carbon | 2.53 g | [Pd] | Pd
solvent | water | 30 ml | O | H2O
product | N-1-butylsulfonyl-4-acetylamino-3-aminobenzamide | 6.72 g | C(CCC)S(=O)(=O)NC(C1=CC(=C(C=C1)NC(C)=O)N)=O | C13H19N3O4S
